US04452851
To a solution of benzhydryl 7-phenylacetamido-3-hydroxy-3-cephem-4-carboxylate-1-oxide (40 g) in pyridine (120 ml) was added mesyl chloride (13 g) under ice-cooling. The reaction mixture was stirred at ambient temperature for an hour. The resulting suspension was poured into water (1 l). The precipitates were collected by filtration, washed with water and methanol, dried under reduced pressure to give benzhydryl 7-phenylacetamido-3-mesyloxy-3-cephem-4-carboxylate-1-oxide (37.0 g).

reactant | benzhydryl 7-phenylacetamido-3-hydroxy-3-cephem-4-carboxylate-1-oxide | 40 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N2O6S
reactant | mesyl chloride | 13 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | water | 1 l | O | H2O
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | benzhydryl 7-phenylacetamido-3-mesyloxy-3-cephem-4-carboxylate-1-oxide | 37.0 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)OS(=O)(=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H26N2O8S2
